### ISSUE TITLE
WeakPostpone_fullBeta_fullEta: cases eta first, then beta

### ISSUE THREAD

**Issue by lengyijun** [awesome-lambda-calculus/cslib#1]
maybe shorter proof

**Comment by lengyijun** [comment]
old version:

```lean

theorem WeakPostpone_fullBeta_fullEta :
    WeakPostpone (FullBeta (Var := Var)) (FullEta (Var := Var)) := by
  intros x y z hxy hyz
  induction hyz generalizing x with
  | base hyz => cases hyz with | beta h1 h2 => cases hxy with
    | appL h h4 => exact ⟨_, .single (.base (.beta h1 (FullEta.step_lc_l h4))),
                              FullEta.step_open_cong_r h h4⟩
    | base hxy => cases hxy with | eta hxy =>
        rename_i M N
        have hmn : (M ^ N).LC := by grind
        refine ⟨_, .single (.abs ∅ (fun x hx => Xi.appR (by grind) ?_)),
                   .single (.base (.eta hmn))⟩
        rw [open_lc _ _ _ hxy, open_lc _ _ _ hmn]
        grind
    | appR _ h => cases h with
      | abs xs ih =>
        exact ⟨_, .single (.base (.beta (FullEta.step_lc_l (Xi.abs xs ih)) h2)),
                   FullEta.steps_open_cong_l xs (by grind) h2⟩
      | base h => cases h with | eta h =>
        refine ⟨_, .tail (.trans_left (.single (.base (.beta (LC.abs ∅ _ (by grind)) h2))) ?_)
                         (.base (.beta h h2)),
                   .refl⟩
        unfold openRec
        rw [open_lc _ _ _ h]
        grind
  | abs xs h ih => cases hxy with
    | base hxy => cases hxy with | eta hxy =>
      rename_i M N
      have hmn : M.abs ⭢βᶠ N.abs := Xi.abs xs h
      have n_lc := FullBeta.step_lc_r hmn
      refine ⟨_, FullBeta.steps_abs_cong xs (fun x hx => FullBeta.transgen_app_l (by grind) ?_),
                .single (.base (.eta n_lc))⟩
      unfold openRec
      rw [<- lcAt_iff_LC] at hxy n_lc
      rw [lcAt_openRec_above_lcAt _ _ 1 1, lcAt_openRec_above_lcAt _ _ 1 1]
      all_goals grind
    | abs ys ihh =>
      rename_i M M' N
      have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
      obtain ⟨w, hw1, hw2⟩ := ih x (by grind) (ihh x (by grind))
      have : w.LC := by cases hw1 <;> apply FullBeta.step_lc_r <;> assumption
      refine ⟨(w.close x).abs,
                FullBeta.steps_abs_cong (y.fv ∪ z.fv ∪ M.fv ∪ M'.fv ∪ xs ∪ N.fv ∪ ys) ?_, ?_⟩
      · intros c hc
        unfold close open'
        rw [close_openRec_to_subst]
        · have g := FullBeta.steps_subst_cong_l _ _ (fvar c) x hw1 (by grind)
          rw [subst_open, subst_fvar] at g <;> grind
        · cases hw1 <;> apply FullBeta.step_lc_r <;> assumption
        · grind
      · rw [open_close_var x M' (by grind)]
        exact FullEta.steps_abs_close hw2
  | appL _ h ih => cases hxy with
    | appL h1 h2 => obtain ⟨w, hw1, hw2⟩ := ih h2
                    exact ⟨_, FullBeta.transgen_app_r h1 hw1, FullEta.redex_app_r_cong hw2 h1⟩
    | appR _ h2 => exact ⟨_, FullBeta.transgen_app_r (FullEta.step_lc_l h2) (.single h),
                             FullEta.redex_app_l_cong (.single h2) (FullBeta.step_lc_r h)⟩
    | base hxy => cases hxy with | eta hxy => cases hxy with | app zlc mlc =>
      refine ⟨_, .single (.abs ∅ (fun x hx => Xi.appR (by grind) (Xi.appL (by grind) ?_))),
                 .single (.base (.eta (.app zlc (FullBeta.step_lc_r h))))⟩
      rw [open_lc, open_lc] <;> grind [FullBeta.step_lc_r]
  | appR _ h ih => cases hxy with
    | base hxy => cases hxy with | eta hxy => cases hxy with | app mlc zlc =>
      refine ⟨_, .single (.abs ∅ (fun x hx => Xi.appR (by grind) (Xi.appR (by grind) ?_))),
                 .single (.base (.eta (.app (FullBeta.step_lc_r h) zlc)))⟩
      rw [open_lc, open_lc] <;> grind [FullBeta.step_lc_r]
    | appL _ h2 => exact ⟨_, FullBeta.transgen_app_l (FullEta.step_lc_l h2) (.single h),
                             FullEta.redex_app_r_cong (.single h2) (FullBeta.step_lc_r h)⟩
    | appR h1 h2 => obtain ⟨w, hw1, hw2⟩ := ih h2
                    exact ⟨_, FullBeta.transgen_app_l h1 hw1, FullEta.redex_app_l_cong hw2 h1⟩
```
